US08530470B2
Trifluoromethanesulfonic anhydride (0.755 L, 4487 mmol) was added to a stirred solution of methyl 3-bromo-4-hydroxy-5-(3-morpholino-3-oxopropanoyl)benzoate (433 g, 1122 mmol, pooled material from several batches) dissolved in 1,2-dichloroethane (1 L) at room temperature under nitrogen (exotherm). The resulting solution was stirred at 50° C. overnight. The mixture was partially evaporated, and the residue was diluted with MeOH (1.6 L) at 0° C. (exotherm) and stirred for 1 h at RT. The solvent was evaporated again and the residue was diluted in DCM, quenched with a saturated aqueous solution of sodium carbonate and extracted with DCM. The combined organic phases were washed with brine, dried over MgSO4 and concentrated to afford the crude product. The crude was triturated under MTBE (2×), EtAc (1×) and MTBE (1×). The solid was dried to afford methyl 8-bromo-2-morpholino-4-oxo-4H-chromene-6-carboxylate (208 g, 50%) as a beige solid. Mass Spectrum: m/z [M+H]+=370.

reactant | Trifluoromethanesulfonic anhydride | 4487 mmol, 0.755 L | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | methyl 3-bromo-4-hydroxy-5-(3-morpholino-3-oxopropanoyl)benzoate | 1122 mmol, 433 g | BrC=1C=C(C(=O)OC)C=C(C1O)C(CC(=O)N1CCOCC1)=O | C15H16BrNO6
solvent | 1,2-dichloroethane | 1 L | ClCCCl | C2H4Cl2
product | methyl 8-bromo-2-morpholino-4-oxo-4H-chromene-6-carboxylate | 208 g, 50% | BrC=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)OC | C15H14BrNO5
